US04059705
5-Bromo-2-pentanone (1.65 g.) and imidazole (3.5 g.) in 15 ml. acetonitrile were stirred at 60° C. for 48 hours and the solvent removed. The residue was chromatographed on silica gel, eluting with 10% methanol in dichloromethane to give 1-(n-pentan-4-onyl)imidazole. This material in 40 ml. methanol was reduced with sodium borohydride in a similar manner to that described in Preparation 2A to give 1-(4-hydroxy-n-pentyl)imidazole.

reactant | 5-Bromo-2-pentanone | 1.65 g | BrCCCC(C)=O | C5H9BrO
reactant | imidazole | 3.5 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(n-pentan-4-onyl)imidazole | C(CCC(C)=O)N1C=NC=C1 | C8H12N2O
